US04788315
2,5-Bis[2-(methoxycarbonyl)propyl]-cyclohexane-1,4-dione
Using cyclohexane-1,4-dione, pyrrolidine and methyl methacrylate (30.0 g, 0.3 mole), the procedure of Example 2 was repeated except that benzene was used in lieu of toluene and ethanol in lieu of dioxane to give 14.8 g of oil. Using a Kugel vacuum distillator, the oil was treated at an oven temperature of 190°-210° C. (1.0-1.2 mmHg) to give a colorless viscous oil.

reactant | cyclohexane-1,4-dione | C1(CCC(CC1)=O)=O | C6H8O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | methyl methacrylate | 0.3 mole, 30.0 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethanol | C(C)O | C2H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,5-Bis[2-(methoxycarbonyl)propyl]-cyclohexane-1,4-dione | 14.8 g | COC(=O)C(CC1C(CC(C(C1)=O)CC(C)C(=O)OC)=O)C | C16H24O6
